** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_top.sch
.subckt iqmod_top di_spdt_ctrl_Q di_spdt_ctrl_I voutn_I_RF voutp_I_RF voutn_Q_RF voutp_Q_RF
+ di_analog_en vinp_Q vinn_Q vinn_I vinp_I di_lo_I di_ds_I_p di_ds_I_n di_lo_Ix di_lo_Qx
+ di_ds_Q_n di_ds_Q_p di_lo_Q VSS VDD
*.PININFO VDD:B voutp_I_RF:B VSS:B di_lo_Q:I di_lo_Qx:I di_lo_I:I di_lo_Ix:I di_ds_I_p:I voutn_I_RF:B voutp_Q_RF:B voutn_Q_RF:B
*+ di_analog_en:I vinp_I:I vinn_I:I di_spdt_ctrl_I:I di_ds_I_n:I di_ds_Q_p:I vinp_Q:I vinn_Q:I di_spdt_ctrl_Q:I di_ds_Q_n:I
x1 di_ds_I_p di_spdt_ctrl_I di_ds_I_n di_lo_I di_lo_Ix voutp_I_RF vinp_I vinn_I voutn_I_RF VDD VSS di_analog_en psub
+ iqmod_top_half
x2 di_ds_Q_p di_spdt_ctrl_Q di_ds_Q_n di_lo_Q di_lo_Qx voutp_Q_RF vinp_Q vinn_Q voutn_Q_RF VDD VSS di_analog_en psub
+ iqmod_top_half
.ends

* expanding   symbol:  iqmod_top_half.sym # of pins=13
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_top_half.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_top_half.sch
.subckt iqmod_top_half di_ds_p di_spdt_ctrl di_ds_n di_lo_p di_lo_n voutp_RF vinp vinn voutn_RF VDD VSS di_analog_en psub
*.PININFO VDD:B voutp_RF:B VSS:B di_lo_p:I di_lo_n:I di_ds_p:I voutn_RF:B di_analog_en:I vinp:I vinn:I di_spdt_ctrl:I di_ds_n:I
*+ psub:B
x3 voutp_lpf voutn_lpf voutp_RF di_lo_p di_lo_n VDD VSS voutn_RF psub iqmod_mixer
x1 voutp_lpf vinp_spdt voutn_lpf vinn_spdt VDD VSS di_analog_en psub iqmod_mfb_lpf
x5 VDD di_spdt_ctrl VSS vinp_spdt di_ds_p vinp psub iqmod_spdt_switch
x6 VDD di_spdt_ctrl VSS vinn_spdt di_ds_n vinn psub iqmod_spdt_switch
.ends


* expanding   symbol:  iqmod_mixer.sym # of pins=9
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer.sch
.subckt iqmod_mixer vinp_IF vinn_IF voutp_RF vinp_LO vinn_LO VDD VSS voutn_RF psub
*.PININFO VDD:B VSS:B vinp_IF:I vinn_IF:I voutp_RF:B vinp_LO:I vinn_LO:I voutn_RF:B psub:B
x2 nwell1 psub VDD vinp_LO_buf VSS voutp_RF vinp_IF vinp_LO_inv iqmod_mixer_tg
x4 nwell2 psub VDD vinn_LO_buf VSS voutn_RF vinn_IF vinn_LO_inv iqmod_mixer_tg
x1 nwell1 psub nwell3 VDD vinp_LO vinp_LO_buf VSS vinp_LO_inv iqmod_mixer_se2diff
x3 nwell2 psub nwell3 VDD vinn_LO vinn_LO_buf VSS vinn_LO_inv iqmod_mixer_se2diff
.ends


* expanding   symbol:  iqmod_mfb_lpf.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf.sch
.subckt iqmod_mfb_lpf voutp vinp voutn vinn VDD VSS di_filter_en psub
*.PININFO VDD:B VSS:B vinp:I vinn:I voutp:O voutn:O di_filter_en:I psub:B
x1 psub voutp voutn vinn_ota vinp_ota VDD VSS di_filter_en iqmod_mfb_lpf_ota_core_hybrid_bm
XC1a vinp_stage1 vinn_stage1 cap_cmim w=8.0e-6 l=8.0e-6 m=5
XC1b vinn_stage1 vinp_stage1 cap_cmim w=8.0e-6 l=8.0e-6 m=5
XC2a vinp_stage2 vinn_stage2 cap_cmim w=8.0e-6 l=8.0e-6 m=3
XC2b vinn_stage2 vinp_stage2 cap_cmim w=8.0e-6 l=8.0e-6 m=3
XC3a voutn vinp_ota cap_cmim w=8.0e-6 l=8.0e-6
XC3b voutp vinn_ota cap_cmim w=8.0e-6 l=8.0e-6
x2 psub vinp_stage1 vinp VSS iqmod_mfb_lpf_R1
x3 psub vinn_stage1 vinn VSS iqmod_mfb_lpf_R1
x4 vinp_stage1 vinp_stage2 psub VSS iqmod_mfb_lpf_R2
x5 vinn_stage1 vinn_stage2 psub VSS iqmod_mfb_lpf_R2
x6 vinp_ota vinp_stage2 psub VSS iqmod_mfb_lpf_R3
x7 vinn_ota vinn_stage2 psub VSS iqmod_mfb_lpf_R3
x8 voutn vinp_stage2 psub VSS iqmod_mfb_lpf_R4
x9 voutp vinn_stage2 psub VSS iqmod_mfb_lpf_R4
.ends


* expanding   symbol:  iqmod_spdt_switch.sym # of pins=7
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_spdt_switch.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_spdt_switch.sch
.subckt iqmod_spdt_switch VDD di_spdt_ctrl VSS v_c v_b v_a psub
*.PININFO v_a:B v_b:B v_c:B VDD:B VSS:B di_spdt_ctrl:I psub:B
x1 nwell psub VDD di_spdt_ctrl spdt_ctrl_n VSS iqmod_spdt_switch_inv
x2 nwell psub VDD spdt_ctrl_n spdt_ctrl_buf VSS iqmod_spdt_switch_inv
x3 nwell psub VDD spdt_ctrl_buf VSS v_c v_a spdt_ctrl_n iqmod_spdt_switch_tg
x4 nwell psub VDD spdt_ctrl_n VSS v_c v_b spdt_ctrl_buf iqmod_spdt_switch_tg
.ends


* expanding   symbol:  iqmod_mixer_tg.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_tg.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_tg.sch
.subckt iqmod_mixer_tg nwell psub VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B di_tg_ctrl:I di_tg_ctrl_n:I VDD:B VSS:B nwell:B psub:B
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=108.0u l=0.13u ng=36
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=324.0u l=0.13u ng=36
XMdummy2 v_b di_tg_ctrl v_b VDD sg13_lv_pmos w=162.0u l=0.13u ng=18
XMdummy1 v_b di_tg_ctrl_n v_b VSS sg13_lv_nmos w=54.0u l=0.13u ng=18
.ends


* expanding   symbol:  iqmod_mixer_se2diff.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff.sch
.subckt iqmod_mixer_se2diff nwell1 psub nwell2 VDD vin voutp VSS voutn
*.PININFO vin:I VDD:B VSS:B voutp:O voutn:O nwell1:B psub:B nwell2:B
x3 nwell2 psub VDD VDD VSS net2 vse VSS iqmod_mixer_se2diff_tg_NF6
x8 nwell1 psub VDD vscale1n vscale2p VSS iqmod_mixer_se2diff_inv_NF18
x5 nwell1 psub VDD vcrossp vcrossn VSS iqmod_mixer_se2diff_inv_NF2
x6 nwell2 psub VDD vcrossn vcrossp VSS iqmod_mixer_se2diff_inv_NF2
x2 nwell1 psub VDD net1 vcrossp VSS iqmod_mixer_se2diff_inv_NF6
x4 nwell2 psub VDD net2 vcrossn VSS iqmod_mixer_se2diff_inv_NF6
x7 nwell1 psub VDD vcrossp vscale1n VSS iqmod_mixer_se2diff_inv_NF6
x1 nwell1 psub VDD vse net1 VSS iqmod_mixer_se2diff_inv_NF6
x9 nwell1 psub VDD vscale2p voutp VSS iqmod_mixer_se2diff_inv_NF54
x10 nwell2 psub VDD vcrossn vscale1p VSS iqmod_mixer_se2diff_inv_NF6
x11 nwell2 psub VDD vscale1p vscale2n VSS iqmod_mixer_se2diff_inv_NF18
x12 nwell2 psub VDD vscale2n voutn VSS iqmod_mixer_se2diff_inv_NF54
x13 nwell2 psub VDD vin vse VSS iqmod_mixer_se2diff_inv_NF2
x14 nwell1 psub VDD vin vse VSS iqmod_mixer_se2diff_inv_NF2
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_hybrid_bm.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_hybrid_bm.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_hybrid_bm.sch
.subckt iqmod_mfb_lpf_ota_core_hybrid_bm psub voutp voutn vinn vinp VDD VSS di_ota_en
*.PININFO vinp:I vinn:I VDD:B VSS:B voutp:O voutn:O di_ota_en:I psub:B
x6 nwell1 psub VDD node_CDG voutn VSS iqmod_mfb_lpf_ota_core_inv_NF20
x7 nwell2 psub VDD node_CDG voutp VSS iqmod_mfb_lpf_ota_core_inv_NF20
x11 nwell1 psub VDD voutn node_EF VSS iqmod_mfb_lpf_ota_core_inv_NF20
x12 nwell2 psub VDD voutp node_EF VSS iqmod_mfb_lpf_ota_core_inv_NF20
x9 nwell1 psub VDD node_vinp node_BC VSS iqmod_mfb_lpf_ota_core_inv_NF10
x10 nwell2 psub VDD node_vinn node_BC VSS iqmod_mfb_lpf_ota_core_inv_NF10
x5 nwell1 psub VDD node_EF node_FG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x1 nwell1 psub VDD node_BC node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x4 nwell2 psub VDD node_BC node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x13 nwell2 psub VDD node_EF node_FG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x8 nwell1 psub VDD node_FG node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x14 nwell2 psub VDD node_FG node_CDG VSS iqmod_mfb_lpf_ota_core_inv_NF6
x2 nwell1 psub VDD node_vinp voutn VSS iqmod_mfb_lpf_ota_core_inv_NF20
x3 nwell2 psub VDD node_vinn voutp VSS iqmod_mfb_lpf_ota_core_inv_NF20
x16 ota_en_n_1 nwell1 psub VDD di_ota_en VSS node_vinp VDD vinp iqmod_mfb_lpf_ota_core_spdt_switch
x17 ota_en_n_2 nwell2 psub VDD di_ota_en VSS node_vinn VDD vinn iqmod_mfb_lpf_ota_core_spdt_switch
x15 nwell1 psub VDD di_ota_en VSS node_CDG node_BC ota_en_n_1 iqmod_mfb_lpf_ota_core_tg
x18 nwell1 psub VDD di_ota_en VSS node_FG node_EF ota_en_n_1 iqmod_mfb_lpf_ota_core_tg
x20 nwell2 psub VDD di_ota_en VSS node_CDG node_BC ota_en_n_2 iqmod_mfb_lpf_ota_core_tg
x23 nwell2 psub VDD di_ota_en VSS node_FG node_EF ota_en_n_2 iqmod_mfb_lpf_ota_core_tg
.ends


* expanding   symbol:  iqmod_mfb_lpf_R1.sym # of pins=4
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R1.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R1.sch
.subckt iqmod_mfb_lpf_R1 psub v_b v_a VSS
*.PININFO v_a:B v_b:B VSS:B psub:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=27.0e-6
XR2 net1 net2 VSS rhigh w=0.5e-6 l=27.0e-6
XR3 net2 v_b VSS rhigh w=0.5e-6 l=27.0e-6
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=27.0e-6
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=27.0e-6
.ends


* expanding   symbol:  iqmod_mfb_lpf_R2.sym # of pins=4
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R2.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R2.sch
.subckt iqmod_mfb_lpf_R2 v_b v_a psub VSS
*.PININFO v_a:B v_b:B VSS:B psub:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=31.0e-6
XR2 net1 net2 VSS rhigh w=0.5e-6 l=31.0e-6
XR3 net2 v_b VSS rhigh w=0.5e-6 l=31.0e-6
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=31.0e-6
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=31.0e-6
.ends


* expanding   symbol:  iqmod_mfb_lpf_R3.sym # of pins=4
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R3.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R3.sch
.subckt iqmod_mfb_lpf_R3 v_b v_a psub VSS
*.PININFO v_a:B v_b:B VSS:B psub:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=59.0e-6
XR2 net1 net2 VSS rhigh w=0.5e-6 l=59.0e-6
XR3 net2 v_b VSS rhigh w=0.5e-6 l=59.0e-6
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=59.0e-6
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=59.0e-6
.ends


* expanding   symbol:  iqmod_mfb_lpf_R4.sym # of pins=4
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R4.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_R4.sch
.subckt iqmod_mfb_lpf_R4 v_b v_a psub VSS
*.PININFO v_a:B v_b:B VSS:B psub:B
XR1 v_a net1 VSS rhigh w=0.5e-6 l=60.0e-6
XR2 net1 net2 VSS rhigh w=0.5e-6 l=60.0e-6
XR3 net2 v_b VSS rhigh w=0.5e-6 l=60.0e-6
XRdummy1 VSS VSS VSS rhigh w=0.5e-6 l=60.0e-6
XRdummy2 VSS VSS VSS rhigh w=0.5e-6 l=60.0e-6
.ends


* expanding   symbol:  iqmod_spdt_switch_inv.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_spdt_switch_inv.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_spdt_switch_inv.sch
.subckt iqmod_spdt_switch_inv nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XM1 vout vin VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XM2 vout vin VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2
.ends


* expanding   symbol:  iqmod_spdt_switch_tg.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_spdt_switch_tg.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_spdt_switch_tg.sch
.subckt iqmod_spdt_switch_tg nwell psub VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I nwell:B psub:B
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=36.0u l=0.13u ng=6
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6
.ends


* expanding   symbol:  iqmod_mixer_se2diff_tg_NF6.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_tg_NF6.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_tg_NF6.sch
.subckt iqmod_mixer_se2diff_tg_NF6 nwell psub VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I nwell:B psub:B
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=18.0u l=0.13u ng=6
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF18.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF18.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF18.sch
.subckt iqmod_mixer_se2diff_inv_NF18 nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XM1 vout vin VSS VSS sg13_lv_nmos w=18.0u l=0.13u ng=18
XM2 vout vin VDD VDD sg13_lv_pmos w=54.0u l=0.13u ng=18
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF2.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF2.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF2.sch
.subckt iqmod_mixer_se2diff_inv_NF2 nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XM1 vout vin VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XM2 vout vin VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF6.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF6.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF6.sch
.subckt iqmod_mixer_se2diff_inv_NF6 nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XM1 vout vin VSS VSS sg13_lv_nmos w=6.0u l=0.13u ng=6
XM2 vout vin VDD VDD sg13_lv_pmos w=18.0u l=0.13u ng=6
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2
.ends


* expanding   symbol:  iqmod_mixer_se2diff_inv_NF54.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF54.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mixer_se2diff_inv_NF54.sch
.subckt iqmod_mixer_se2diff_inv_NF54 nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XM1 vout vin VSS VSS sg13_lv_nmos w=54.0u l=0.13u ng=54
XM2 vout vin VDD VDD sg13_lv_pmos w=162.0u l=0.13u ng=54
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_inv_NF20.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_inv_NF20.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_inv_NF20.sch
.subckt iqmod_mfb_lpf_ota_core_inv_NF20 nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2
XM1 vout vin VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20
XM2 vout vin VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_inv_NF10.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_inv_NF10.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_inv_NF10.sch
.subckt iqmod_mfb_lpf_ota_core_inv_NF10 nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XM1 vout vin VSS VSS sg13_lv_nmos w=10.0u l=1.0u ng=10
XM2 vout vin VDD VDD sg13_lv_pmos w=60.0u l=1.0u ng=10
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_inv_NF6.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_inv_NF6.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_inv_NF6.sch
.subckt iqmod_mfb_lpf_ota_core_inv_NF6 nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2
XM1 vout vin VSS VSS sg13_lv_nmos w=6.0u l=1.0u ng=6
XM2 vout vin VDD VDD sg13_lv_pmos w=36.0u l=1.0u ng=6
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_spdt_switch.sym # of pins=9
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_spdt_switch.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_spdt_switch.sch
.subckt iqmod_mfb_lpf_ota_core_spdt_switch do_spdt_ctrl_n nwell psub VDD di_spdt_ctrl VSS v_c v_b v_a
*.PININFO v_a:B v_b:B v_c:B VDD:B VSS:B di_spdt_ctrl:I do_spdt_ctrl_n:O nwell:B psub:B
x1 nwell psub VDD di_spdt_ctrl do_spdt_ctrl_n VSS iqmod_mfb_lpf_ota_core_spdt_switch_inv
x2 nwell psub VDD do_spdt_ctrl_n spdt_ctrl_buf VSS iqmod_mfb_lpf_ota_core_spdt_switch_inv
x3 nwell psub VDD spdt_ctrl_buf VSS v_c v_a do_spdt_ctrl_n iqmod_mfb_lpf_ota_core_spdt_switch_tg
x4 nwell psub VDD do_spdt_ctrl_n VSS v_c v_b spdt_ctrl_buf iqmod_mfb_lpf_ota_core_spdt_switch_tg
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_tg.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_tg.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_tg.sch
.subckt iqmod_mfb_lpf_ota_core_tg nwell psub VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I nwell:B psub:B
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=36.0u l=0.13u ng=6
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_spdt_switch_inv.sym # of pins=6
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_spdt_switch_inv.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_spdt_switch_inv.sch
.subckt iqmod_mfb_lpf_ota_core_spdt_switch_inv nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
XM1 vout vin VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XM2 vout vin VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=2
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=0.13u ng=2
.ends


* expanding   symbol:  iqmod_mfb_lpf_ota_core_spdt_switch_tg.sym # of pins=8
** sym_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_spdt_switch_tg.sym
** sch_path: /foss/designs/ihp130/macros/iqmod/xschem/iqmod_mfb_lpf_ota_core_spdt_switch_tg.sch
.subckt iqmod_mfb_lpf_ota_core_spdt_switch_tg nwell psub VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n
*.PININFO v_a:B v_b:B VDD:B VSS:B di_tg_ctrl:I di_tg_ctrl_n:I nwell:B psub:B
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=36.0u l=0.13u ng=6
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=6.0u l=0.13u ng=6
.ends

